US06492399B1
5-Bromooxazolo[5,4-b]pyridine, isomeric by orientation of ring fusion to the previously described 6-bromooxazolo[4,5-b]pyridine, can also be used in the Heck coupling with N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine. Subsequent removal of the tert-butoxycarbonyl protecting group provides (4E)-N-methyl-5-(5-oxazolo[5,4-b]pyridinyl)-4-penten-2-amine. The required 5-bromooxazolo[5,4-b]pyridine is synthesized from 3-amino-5-bromo-2-pyridinol (3-amino-5-bromo-2-pyridone) by the condensation with formic acid (or a derivative thereof) as described above. 3-Amino-5-bromo-2-pyridinol can be made by bromination (using techniques described by T. Batkowski, Rocz. Chem. 41: 729-741 (1967)) and subsequent tin(II) chloride reduction (according to the method described by S. X. Cai et al., J. Med. Chem. 40(22): 3679-3686 (1997)) of commercially available 3-nitro-2-pyridinol (Aldrich Chemical Company).

reactant | 3-amino-5-bromo-2-pyridinol | NC=1C(=NC=C(C1)Br)O | C5H5BrN2O
reactant | tin(II) chloride | [Sn](Cl)Cl
reactant | 3-nitro-2-pyridinol | [N+](=O)([O-])C=1C(=NC=CC1)O | C5H4N2O3
reactant | formic acid | C(=O)O | CH2O2
product | 5-bromooxazolo[5,4-b]pyridine | BrC1=CC=C2C(=N1)OC=N2 | C6H3BrN2O
